US07696231B2
8-[(4-{(2-(5-Iodo-2-oxo-1,2-dihydro-3H-indol-3-ylidene)hydrazino]-carbonyl}phenyl)amino]-8-oxooctanoic acid
Into a suspension of methyl 8-[(4-{[2-(5-iodo-2-oxo-1,2-dihydro-3H-indol-3-ylidene)hydrazino]carbonyl}phenyl)amino]-8-oxooctanoate (420 mg, 0.73 mmol) in THF/H2O (2/1) (15 mL) was added NaOH (1.0 N, 3.6 mL). The resulting solution was stirred at rt for 2.5 hr and quenched with HCl (5 N, 2 mL). A yellow solid precipitated out. Filtration, washing with water (4×5 mL) and drying under vacuo at 70° C. for 20 hrs gave the title compound as a yellow powder (340 mg, 82%) in 99.1% purity by HPLC (MaxPlot detection between 230 and 400 nm).

reactant | methyl 8-[(4-{[2-(5-iodo-2-oxo-1,2-dihydro-3H-indol-3-ylidene)hydrazino]carbonyl}phenyl)amino]-8-oxooctanoate | 0.73 mmol, 420 mg | IC=1C=C2C(C(NC2=CC1)=O)=NNC(=O)C1=CC=C(C=C1)NC(CCCCCCC(=O)OC)=O | C24H25IN4O5
reactant | NaOH | 1.0 N, 3.6 mL | [OH-].[Na+]
solvent | THF H2O | 15 mL | C1CCOC1.O
product | 8-[(4-{(2-(5-Iodo-2-oxo-1,2-dihydro-3H-indol-3-ylidene)hydrazino]-carbonyl}phenyl)amino]-8-oxooctanoic acid | 340 mg, 82% | IC=1C=C2C(C(NC2=CC1)=O)=NNC(=O)C1=CC=C(C=C1)NC(CCCCCCC(=O)O)=O | C23H23IN4O5
